US05250569
Lemon-Flavored Aluminum Acetate Formulation
97.85 g of lemon-flavored hard candy stock was placed in an aluminum pan and heated at 210° F. to a mobile syrup. To this hot stock was added 2.15 g of a dry, finely-ground mixture containing 0.76 g of Al(CH3CO2)3 and 1.39 g of anhydrous glycine, C2H5NO2. The dry component was evenly distributed in the melted stock by thorough mixing and the product was poured onto a greased aluminum pan, forming a circular mass approximately 4 mm thick. As it cooled toward room temperature, it was scored with a lightly greased knife into pieces approximately 1.5 cm square. On cooling to room temperature, the squares were easily broken out of the mass. The yield was 33 pieces with an average weight of 2.4 g. The aluminum content was 1.0 mg per gram and glycine content was 13.9 mg per gram. The molar ratio of glycine to aluminum was 5 to 1. The flavor was very pleasant, without unpleasant aftertaste, and with an astringent mouth-feel.

reactant | aluminum | [Al] | Al
reactant | glycine | 1.39 g | NCC(=O)O | C2H5NO2
reactant | C2H5NO2 | C(C)[N+](=O)[O-] | C2H5NO2
product | Aluminum Acetate | C(C)(=O)[O-].[Al+3].C(C)(=O)[O-].C(C)(=O)[O-] | InChI=1S/3C2H4O2.Al/c3*1-2(3)4;/h3*1H3,(H,3,4);/q;;;+3/p-3
